US08865712B2
j) 5-Bromo-pyridine-2-carboxylic acid [5-(5-amino-3-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-6-chloro-pyridin-3-yl]-amide hydrochloride
To a suspension of 5-bromo-pyridine-2-carboxylic acid [6-chloro-5-(3-fluoromethyl-5-thioxo-morpholin-3-yl)-pyridin-3-yl]-amide (26 mg, 0.057 mmol) in 7M NH3 in MeOH (0.23 ml) was added at −20° C., tert.-butylhydroperoxide (0.055 ml, 0.566 mmol) and aq. 25% NH3 (0.15 ml, 0.99 mmol), the reaction mixture was stirred at room temperature for 80 min, 7M NH3 in MeOH (0.69 ml) were added and stirring continued for 20 h. At 0° C. halfsaturated aq. Na2S2O3 was added and the mixture extracted with EtOAc. The combined organic layers were washed with halfsaturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by preparative TLC DCM/MeOH 9:1 to yield the desired compound as colorless foam. The product was dissolved in DCM/MeOH, 5 equivalents of 5M HCl in Et2O were added and the solvents evaporated to provide the title compound as beige solid.

reactant | 5-bromo-pyridine-2-carboxylic acid [6-chloro-5-(3-fluoromethyl-5-thioxo-morpholin-3-yl)-pyridin-3-yl]-amide | 0.057 mmol, 26 mg | ClC1=C(C=C(C=N1)NC(=O)C1=NC=C(C=C1)Br)C1(NC(COC1)=S)CF | C16H13BrClFN4O2S
reactant | tert.-butylhydroperoxide | 0.566 mmol, 0.055 ml | C(C)(C)(C)OO | C4H10O2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NH3 | 7M | N | H3N
reactant | NH3 | 7M | N | H3N
reactant | NH3 | 0.99 mmol, 0.15 ml | N | H3N
solvent | MeOH | 0.23 ml | CO | CH4O
solvent | MeOH | 0.69 ml | CO | CH4O
product | 5-Bromo-pyridine-2-carboxylic acid [5-(5-amino-3-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-6-chloro-pyridin-3-yl]-amide hydrochloride | Cl.NC1=NC(COC1)(CF)C=1C=C(C=NC1Cl)NC(=O)C1=NC=C(C=C1)Br | InChI=1S/C16H14BrClFN5O2.ClH/c17-9-1-2-12(21-4-9)15(25)23-10-3-11(14(18)22-5-10)16(7-19)8-26-6-13(20)24-16;/h1-5H,6-8H2,(H2,20,24)(H,23,25);1H
